US05994353
Cyclobutanemethanol(5 g, 58 mmol) was dissolved in dichloromethane (150 ml) and cooled in an ice water bath. Triethylamine (10.5 ml,-75.5 mmol) was added followed by the dropwise addition of a solution of tosyl chloride (13.3 g, 69.8 mmol) in dichloromethane (50 ml). The cooling bath was removed and the mixture allowed to warm to room temperature over 16 hours. The mixture was washed with water (2×100 ml) dried (MgSO4) and concentrated in vacuo to give cyclobutanemethanol tosylate as a yellow oil which was used without further purification.

reactant | Cyclobutanemethanol | 58 mmol, 5 g | C1(CCC1)CO | C5H10O
reactant | Triethylamine | -75.5 mmol, 10.5 ml | C(C)N(CC)CC | C6H15N
reactant | tosyl chloride | 69.8 mmol, 13.3 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | cyclobutanemethanol tosylate | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1CCC1 | C12H16O3S
